US08003785B2
A mixture of 0.20 g (0.66 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20) and 0.11 g (0.79 mmole) of 4-aminobenzoic acid in a 1:4 mixture of 5 mL of ethanol and 1M hydrochloric acid was heated at 100 degrees for 18 hours. After cooling, the precipitate was collected by filtration, washed with water and dried to give 0.21 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-131).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.66 mmole, 0.20 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCC2)N1 | C12H13ClF2N4O
reactant | 4-aminobenzoic acid | 0.79 mmole, 0.11 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.21 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C19H19F2N5O3
